US06472392B1
b. 3-[4-(2,6-Di-t-butylpyrimidin-4-yl)piperazin-1-yl]propyl-triphenylphosphonium chloride
3.52 g (10 mmol) of 1-chloro-3-[4-(2,6-di-t-butylpyrimidin-4-yl)piperazin-1-yl]propane (prepared by a method similar to Example 1, A.3) were dissolved, together with 1.8 g of sodium iodide (12 mmol) and 3.41 g (13 mmol) of triphenylphosphine in 75 ml of acetone and the solution was refluxed for 24 h.

reactant | 1-chloro-3-[4-(2,6-di-t-butylpyrimidin-4-yl)piperazin-1-yl]propane | 10 mmol, 3.52 g | ClCCCN1CCN(CC1)C1=NC(=NC(=C1)C(C)(C)C)C(C)(C)C | C19H33ClN4
reactant | sodium iodide | 12 mmol, 1.8 g | [I-].[Na+]
reactant | triphenylphosphine | 13 mmol, 3.41 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | 3-[4-(2,6-Di-t-butylpyrimidin-4-yl)piperazin-1-yl]propyl-triphenylphosphonium chloride | [Cl-].C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(C)(C)C | InChI=1S/C37H48N4P.ClH/c1-36(2,3)33-29-34(39-35(38-33)37(4,5)6)41-26-24-40(25-27-41)23-16-28-42(30-17-10-7-11-18-30,31-19-12-8-13-20-31)32-21-14-9-15-22-32;/h7-15,17-22,29H,16,23-28H2,1-6H3;1H/q+1;/p-1
